US05143948
A flask equipped with a stirrer, thermometer, and nitrogen inlet tube was charged with 4.4 grams (0.01 mol) of 2,2-bis(3,4-benzenedicarboxylic anhydride)perfluoropropane and 26.5 grams (0.09 mol) of 3,3',4,4'-biphenyltetracarboxylic dianhydride as a tetracarboxylic dianhydride component and 400 grams of N-methyl-2-pyrrolidone as a solvent. To the flask was added dropwise an N-methyl-2-pyrrolidone solution containing 19.8 grams (0.08 mol) of bis(3-aminopropyl)tetramethyldisiloxane and 8.2 grams (0.02 mol) of 2,2-bis[4-(4-aminophenoxy)phenyl]propane as a diamine component while the temperature of the reaction system was controlled so as not to exceed 50° C. After dropwise addition, the reaction mixture was stirred for a further ten hours at room temperature. Then the flask was equipped with a reflux condenser connected to a water collecting container and 30 grams of xylene was added to the flask. The reaction system was heated to 160° C. and maintained at the temperature for four hours to effect reaction. There was obtained a polyimide resin solution which was yellowish brown and clear. During the reaction, 3.4 grams of water formed as a by-product. The polyimide resin solution was poured into methanol from which the polyimide resin was precipitated again and isolated. Vacuum drying at 60° C. for 24 hours yielded 52.6 grams of a polyimide resin.

reactant | 3,3',4,4'-biphenyltetracarboxylic dianhydride | 0.09 mol, 26.5 grams | C1=CC2=C(C=C1C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O6
reactant | bis(3-aminopropyl)tetramethyldisiloxane | 0.08 mol, 19.8 grams | NCCC[Si](O[Si](C)(C)C)(C)CCCN | C10H28N2OSi2
reactant | 2,2-bis[4-(4-aminophenoxy)phenyl]propane | 0.02 mol, 8.2 grams | NC1=CC=C(OC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OC2=CC=C(C=C2)N)C=C1 | C27H26N2O2
reactant | water | O | H2O
reactant | N-methyl-2-pyrrolidone | 400 grams | CN1C(CCC1)=O | C5H9NO
solvent | xylene | 30 grams | C=1(C(=CC=CC1)C)C | C8H10
product | polyimide resin | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
